US07109339B2
To a solution of (2-trifluoromethyl-phenyl)-hydrazine (12.0 g, 68.13 mmol) and 4-piperidone monohydrate (10.46 g, 68.09 mmol), in iso-propyl alcohol was bubbled HCl (g) for 15 minutes at rt. The reaction was sealed in a pressure vessel and heated to 95° C. for 5 h, then cooled to rt. The reaction mixture was filtered and washed with iso-propyl alcohol and dried in vacuo to yield 6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole bis-hydrochloride as a white solid (13.3 g, 63% yield). 1H NMR (CD3OD, 300 MHz) δ 3.203 (t, 2H, 12.4 Hz), 3.642 (t, 2H, 12.0 Hz), 4.472 (t, 2H, 2.6 Hz), 7.189 (t, 1H, 15.7 Hz), 7.435 (d, 1H, 7.7 Hz), 7.709 (d, 1H, 8.0 Hz) ppm.

reactant | (2-trifluoromethyl-phenyl)-hydrazine | 68.13 mmol, 12.0 g | FC(C1=C(C=CC=C1)NN)(F)F | C7H7F3N2
reactant | 4-piperidone monohydrate | 68.09 mmol, 10.46 g | O.N1CCC(CC1)=O
reactant | HCl | Cl | ClH
solvent | iso-propyl alcohol | C(C)(C)O | C3H8O
product | 6-trifluoromethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole bis-hydrochloride | 13.3 g, 63% yield | Cl.Cl.FC(C1=CC=CC=2C3=C(NC12)CCNC3)(F)F | InChI=1S/C12H11F3N2.2ClH/c13-12(14,15)9-3-1-2-7-8-6-16-5-4-10(8)17-11(7)9;;/h1-3,16-17H,4-6H2;2*1H
